US04497821
Isopropyl 2-methoxyethyl 2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate
6.8 g of chromium(VI) oxide were added in portions to a boiling solution of 41.8 g (100 mmols) of isopropyl 2-methoxyethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate in 160 ml of glacial acetic acid. The mixture was then heated under reflux for a further 30 minutes and, after cooling down, poured into ammoniacal ice-water. The mixture was extracted with chloroform and the extracts, after drying over sodium sulphate, were evaporated in vacuo. 35.9 g (86% of theory) of an oil resulted.

reactant | isopropyl 2-methoxyethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | 100 mmols, 41.8 g | CC=1NC(=C(C(C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOC)C | C21H26N2O7
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
catalyst | chromium(VI) oxide | 6.8 g | [O-2].[Cr+6].[O-2].[O-2]
product | Isopropyl 2-methoxyethyl 2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | CC1=NC(=C(C(=C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOC)C | C21H24N2O7
